US05489593
Methyl 3-bromo-4-methoxy-α-azidocinnamate
Following the general procedure of PREPARATION 61 and making non-critical variations but starting with 3-bromo-4-methoxybenzaldehyde (5.0 g) and methyl azidoacetate (10.7 g), the title compound is obtained, NMR (300 MHz, CDCl3) 8.10, 7.73, 6.89, 6.79, 3.94 and 3.90 δ.

reactant | 3-bromo-4-methoxybenzaldehyde | 5.0 g | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
reactant | methyl azidoacetate | 10.7 g | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
product | Methyl 3-bromo-4-methoxy-α-azidocinnamate | BrC=1C=C(C=C(C(=O)OC)N=[N+]=[N-])C=CC1OC | C11H10BrN3O3
